US04254135
Trans-4-chloro-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide.
A solution of 17.0 g (118 mmoles) of trans-1-ethyl-4-methylamino-3-pyrrolidinol in 180 ml of methylene chloride was mixed with 15 g of powdered anhydrous potassium carbonate and cooled to -5° C. The mixture was kept at or below 0° C. while a solution of 20.6 g (118 mmoles) of p-chlorobenzoyl chloride in 100 ml of methylene chloride was added dropwise. After the mixture was stirred at ambient temperature for 18 hr, it was poured into 100 ml of water. The organic layer was separated, dried and concentrated. The residue was crystallized from cyclohexane to give 25 g (75%) of white crystals, m.p. 91°-93° C.

reactant | trans-1-ethyl-4-methylamino-3-pyrrolidinol | 118 mmoles, 17.0 g | C(C)N1C[C@H]([C@@H](C1)NC)O | C7H16N2O
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorobenzoyl chloride | 118 mmoles, 20.6 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Trans-4-chloro-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide | 25 g, 75% | ClC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)CC)C=C1 | C14H19ClN2O2
